US04634710
21.0 g of 4-ethoxy-3,5-dimethyl-2-pyridylmethanol, dissolved in 110 ml of methylene chloride, were added dropwise at 0° to 10 ml of thionyl chloride in 220 ml of methylene chloride. After stirring at room temperature for 16 hours 890 ml of ether were added dropwise thereto while cooling and the mixture was stirred at room temperature for a further 2 hours. The separated crystals were filtered off under suction and washed with ether. There was obtained 2-chloromethyl-4-ethoxy-3,5-dimethylpyridine hydrochloride of melting point 156°-158°.

reactant | 4-ethoxy-3,5-dimethyl-2-pyridylmethanol | 21.0 g | C(C)OC1=C(C(=NC=C1C)CO)C | C10H15NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ether | 890 ml | CCOCC | C4H10O
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 220 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-4-ethoxy-3,5-dimethylpyridine hydrochloride | Cl.ClCC1=NC=C(C(=C1C)OCC)C | InChI=1S/C10H14ClNO.ClH/c1-4-13-10-7(2)6-12-9(5-11)8(10)3;/h6H,4-5H2,1-3H3;1H
